US06919331B2
A mixture of methanesulfonic acid 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl ester (16 mg, 0.033 mmol) and KCN (21 mg, 0.33 mmol) in DMF was stirred for 24 h at ambient temperature. The solvent was evaporated and the residue was purified by prep-HPLC (gradient 10%-100% B) to give 12 mg (88%) of [2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-yl]-acetonitrile as a colorless gum.

reactant | methanesulfonic acid 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl ester | 0.033 mmol, 16 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)COS(=O)(=O)C)=O | C25H32N4O4S
reactant | KCN | 0.33 mmol, 21 mg | [C-]#N.[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-yl]-acetonitrile | 12 mg, 88% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)CC#N)=O | C25H29N5O
